US07790709B2
Preparation of Methyl-thieno[3,2-c]pyridin-2-ylmethyl-amine
A solution of thieno[3,2-c]pyridine (500 mg, 3.70 mmol) in anhydrous THF (10 mL) was stirred under argon and maintained at −78° C. while a solution of 1.6 M n-butyllithium in hexane (2.5 mL, 4.07 mmol) was added dropwise. The resulting wine red solution was stirred for 5 min. then DMF (573 μL, 7.4 mmol) was added. The cooling bath was removed and the reaction mixture was stirred at room temperature for 16 hr. The reaction mixture was treated with 10% aqueous HCl, made alkaline with saturated aqueous NaHCO3 and extracted with CH2Cl2 (2×50 mL) The combined organic fractions were concentrated in vacuo to give an oily residue which was subjected to flash chromatography on silica gel (70% ethyl acetate:hexanes) to give the title compound as a white solid (41.5%): 1H-NMR (300 MHz, DMSO-d6) δ 10.20 (s, 1H), 9.39 (s, 1H), 8.60 (s, 1H), 8.59 (d, J=5.5 Hz, 1H), 8.19 (d, J=5.6 Hz, 1H); MS (ES) m/e 164 (M+H)+.

reactant | thieno[3,2-c]pyridine | 3.70 mmol, 500 mg | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 4.07 mmol, 2.5 mL | CCCCCC | C6H14
reactant | DMF | 7.4 mmol, 573 μL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl-thieno[3,2-c]pyridin-2-ylmethyl-amine | 41.5% | CNCC1=CC=2C=NC=CC2S1 | C9H10N2S
